US05102877
To a solution of ethyl (3S)-morpholine-3-carboxylate (3.80 g) in a mixture of tetrahydrofuran (40 ml) and water (40 ml) was added a solution of allyl chloroformate (3.36 ml), in tetrahydrofuran (3 ml) under ice-cooling with stirring, keeping the pH between 8.5 and 9.5 with 4N aqueous sodium hydroxide. After stirring for 30 minutes, the mixture was extracted with ethyl acetate (100 ml), dried over magnesium sulfate, and evaporated to give ethyl (3S)-4-allyloxycarbonylmorpholine-3-carboxylate (5.83 g) as a syrup.

reactant | ethyl (3S)-morpholine-3-carboxylate | 3.80 g | N1[C@@H](COCC1)C(=O)OCC | C7H13NO3
reactant | allyl chloroformate | 3.36 ml | ClC(=O)OCC=C | C4H5ClO2
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | 40 ml | O | H2O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | ethyl (3S)-4-allyloxycarbonylmorpholine-3-carboxylate | 5.83 g | C(C=C)OC(=O)N1[C@@H](COCC1)C(=O)OCC | C11H17NO5
